US04980349
3-(2,4-dichlorobenzoyl)-4-chlorobenzensulphonyl chloride
3-benzoyl-4-chlorobenzenesulphonyl chloride 3-(4-chlorobenzoyl)-4-chlorobenzenesulphonyl chloride 4-benzoyl-3-chlorobenzenesulphonyl chloride and 4-chloro-3-(2-thienoyl)benzenesulphonyl chloride.

reactant | 3-benzoyl-4-chlorobenzenesulphonyl chloride 3-(4-chlorobenzoyl)-4-chlorobenzenesulphonyl chloride 4-benzoyl-3-chlorobenzenesulphonyl chloride | C(C1=CC=CC=C1)(=O)C1=C(C=C(C=C1)S(=O)(=O)Cl)Cl.ClC1=CC=C(C(=O)C=2C=C(C=CC2Cl)S(=O)(=O)Cl)C=C1.C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1Cl)S(=O)(=O)Cl
reactant | 4-chloro-3-(2-thienoyl)benzenesulphonyl chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(=O)C=1SC=CC1 | C11H6Cl2O3S2
product | 3-(2,4-dichlorobenzoyl)-4-chlorobenzensulphonyl chloride | ClC1=C(C(=O)C=2C=C(C=CC2Cl)S(=O)(=O)Cl)C=CC(=C1)Cl | C13H6Cl4O3S
